US04873349
Preparation of 1-hydroxymethyl-2,3,4-trimethoxybenzene
2 g of commercials 2,3,4-trimethoxybenzaldehyde are placed in a 100 ml three-necked flask equipped with a magnetic stirrer, a gas inlet and a thermometer and are dissolved in 15 ml of CH2Cl2 +5 ml of ethanol. 200 mg of NaBH4 (6 mmoles) are added in small portions, at ambient temperature. The contents are stirred for 30 minutes at ambient temperature. TLC (cyclohexane:AcOEt 6:4) indicates a single-spot product. The ethanol is evaporated off and the residue is taken up with ChCl3, the organic phases are washed with NaCl and then with H2O, dried over MgSO4 and evaporated. An analytically pure pale yellow oil is obtained (Y=98%).

reactant | 2,3,4-trimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | NaBH4 | 6 mmoles, 200 mg | [BH4-].[Na+]
reactant | cyclohexane AcOEt | C1CCCCC1.CCOC(=O)C
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 1-hydroxymethyl-2,3,4-trimethoxybenzene | OCC1=C(C(=C(C=C1)OC)OC)OC | C10H14O4
